US05004745
1-Ethyl-7-fluoro-8-(3-methyl-1-piperazinyl)-4-oxo-1,4-dihydro-benzo[b][1,8]naphthyridine-3-carboxylic acid is prepared under the conditions of Example 1 but starting from 2.1 g of 8-chloro-1-ethyl-7-fluoro-4-oxo-1,4-dihydro-benzo[b][1,8]naphthyridine-3-carboxylic acid, 20 cm3 of pyridine and 2.4 g of 2-methylpiperazine. After taking up in ethanol and concentrating to dryness under reduced pressure (20 kPa at 50° C.), the solid residue is taken up in 20 cm3 of water and 10 cm3 of 2 N potassium hydroxide solution. The aqueous solution obtained is washed with twice 20 cm3 of trichloromethane, 10 cm3 of acetic acid are added and the mixture is again washed with twice 40 cm3 of trichloromethane. 23 cm3 of 4.5 N potassium hydroxide solution are added and the suspension obtained is heated to a temperature close to 90° C. After cooling to a temperature close to 20° C., the precipitate is drained and washed with 3 times 10 cm3 of water and twice 10 cm3 of ethanol. After recrystallizing twice from 120 cm3 of dimethylformamide each time, 1.7 g of 1-ethyl-7-fluoro-8-(3-methyl-1-piperazinyl)-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylic acid are obtained in the form of a yellow solid melting at 310°-312° C.

reactant | 8-chloro-1-ethyl-7-fluoro-4-oxo-1,4-dihydro-benzo[b][1,8]naphthyridine-3-carboxylic acid | 2.1 g | ClC=1C(=CC=2C(=NC=3N(C=C(C(C3C2)=O)C(=O)O)CC)C1)F | C15H10ClFN2O3
reactant | pyridine | 20 cm3 | N1=CC=CC=C1 | C5H5N
reactant | 2-methylpiperazine | 2.4 g | CC1NCCNC1 | C5H12N2
solvent | ethanol | C(C)O | C2H6O
product | 1-Ethyl-7-fluoro-8-(3-methyl-1-piperazinyl)-4-oxo-1,4-dihydro-benzo[b][1,8]naphthyridine-3-carboxylic acid | C(C)N1C=C(C(C=2C=C3C(=NC12)C=C(C(=C3)F)N3CC(NCC3)C)=O)C(=O)O | C20H21FN4O3
